US05846995
N-(N,N-Dipropyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)isonicotinamide dihydrochloride
Beginning with 0.072 gm (0.20 mMol) 8-amino-1,2,3,4-tetrahydro-2-dipropylaminodibenzofuran and 0.054 gm (0.30 mMol) isonicotinoyl chloride hydrochloride, 0.075 gm (81%) of the title compound were recovered as a yellow solid by the procedure described in Example 17.

reactant | 8-amino-1,2,3,4-tetrahydro-2-dipropylaminodibenzofuran | 0.20 mMol, 0.072 gm | NC=1C=CC2=C(C3=C(O2)CCC(C3)N(CCC)CCC)C1 | C18H26N2O
reactant | isonicotinoyl chloride hydrochloride | 0.30 mMol, 0.054 gm | Cl.C(C1=CC=NC=C1)(=O)Cl
product | N-(N,N-Dipropyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)isonicotinamide dihydrochloride | 0.075 gm, 81% | Cl.Cl.C(CC)N(C1CC2=C(OC3=C2C=C(C=C3)NC(C3=CC=NC=C3)=O)CC1)CCC | InChI=1S/C24H29N3O2.2ClH/c1-3-13-27(14-4-2)19-6-8-23-21(16-19)20-15-18(5-7-22(20)29-23)26-24(28)17-9-11-25-12-10-17;;/h5,7,9-12,15,19H,3-4,6,8,13-14,16H2,1-2H3,(H,26,28);2*1H
